### PR TITLE
feat(push): `@[push]` attributes for `∈` in `Set`, `Finset` and `Multiset`

### PR DESCRIPTION
**Pull request by JovanGerb**
This PR adds `@[push]` annotations for the membership relations, for `Set`, `Finset` and `Multiset`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: MathlibTest/push.lean [hunk 1]
```diff
@@ -73,3 +73,49 @@ example : (fun x : ℕ ↦ x ^ 2 + 1 * 0 - 5 • 6) = id ^ 2 + 1 * 0 - 5 • 6 :
   simp only [pullFun]
 
 end lambda
+
+section membership
+
```
Comment (grunweg) [inline MathlibTest/push.lean:78]: Can you add some tests for intervals also?

File: Mathlib/Data/Set/Operations.lean [hunk 2]
```diff
@@ -68,7 +69,7 @@ variable {α : Type u} {β : Type v} {γ : Type w}
 
 /-! ### Lemmas about `mem` and `setOf` -/
```
Comment (grunweg) [inline Mathlib/Data/Set/Operations.lean:71]: Can you add a few basic tests for this file? Say, for `mem_setOf`, `mem_univ` or `mem_range`?

File: Mathlib/Data/Set/Insert.lean [hunk 3]
```diff
@@ -65,7 +65,7 @@ theorem eq_of_mem_insert_of_notMem : b ∈ insert a s → b ∉ s → b = a :=
 @[deprecated (since := "2025-05-23")]
 alias eq_of_not_mem_of_mem_insert := eq_of_mem_insert_of_notMem
 
-@[simp, grind =]
+@[simp, grind =, push]
```
Comment (grunweg) [inline Mathlib/Data/Set/Insert.lean:68]: A test for this or mem_singleton_iff would be nice.

File: Mathlib/Algebra/Group/Pointwise/Set/ListOfFn.lean [hunk 4]
```diff
@@ -42,7 +42,7 @@ theorem mem_list_prod {l : List (Set α)} {a : α} :
   · rintro ⟨fi, rfl, rfl⟩
     exact ⟨fun i ↦ _, rfl⟩
 
-@[to_additive]
+@[to_additive (attr := push)]
```
Comment (grunweg) [inline Mathlib/Algebra/Group/Pointwise/Set/ListOfFn.lean:45]: This is probably not a good simp lemma, but might be a fine push lemma.

File: Mathlib/Data/Finset/Lattice/Fold.lean [hunk 5]
```diff
@@ -1108,6 +1108,7 @@ theorem count_finset_sup [DecidableEq β] (s : Finset α) (f : α → Multiset 
   · intro i s _ ih
     rw [Finset.sup_insert, sup_eq_union, count_union, Finset.sup_insert, ih]
 
+@[push]
```
Comment (grunweg) [inline Mathlib/Data/Finset/Lattice/Fold.lean:1111]: I don't know why this lemma is not `simp`, but Finset.mem_sup` is. Oh well...

File: Mathlib/Data/Multiset/Sort.lean [hunk 6]
```diff
@@ -49,7 +49,7 @@ theorem sort_sorted : Sorted r (sort s r) :=
 theorem sort_eq : ↑(sort s r) = s :=
   Quot.inductionOn s fun _ => Quot.sound <| mergeSort_perm _ _
 
-@[simp]
+@[simp, push]
```
Comment (grunweg) [inline Mathlib/Data/Multiset/Sort.lean]: How is this lemma related to the theme of this PR?

File: Mathlib/Data/Set/Operations.lean [hunk 7]
```diff
@@ -201,10 +202,10 @@ variable {a : α} {b : β} {s : Set α} {t : Set β} {p : α × β}
 
 theorem mem_prod_eq : (p ∈ s ×ˢ t) = (p.1 ∈ s ∧ p.2 ∈ t) := rfl
 
-@[simp, mfld_simps, grind =]
+@[simp, mfld_simps, grind =, push]
 theorem mem_prod : p ∈ s ×ˢ t ↔ p.1 ∈ s ∧ p.2 ∈ t := .rfl
 
-@[mfld_simps]
+@[mfld_simps, push only high]
```
Comment (grunweg) [inline Mathlib/Data/Set/Operations.lean]: Can you comment on the priority here (and perhaps even add a test)? Thanks!

File: Mathlib/Data/Multiset/Pi.lean [hunk 8]
```diff
@@ -151,6 +151,7 @@ protected theorem Nodup.pi {s : Multiset α} {t : ∀ a, Multiset (β a)} :
             by rw [eq]
           neb <| show b₁ = b₂ by rwa [Pi.cons_same, Pi.cons_same] at this)
 
+@[push]
```
Comment (grunweg) [inline Mathlib/Data/Multiset/Pi.lean:154]: This would be a terrible simp lemma. I'm not sure if it would be a good push lemma - but if this only fires on a hypothesis `f \in pi m t`, perhaps it's fine?

**Review by grunweg — COMMENTED** [review]
Thanks! I have a few minor comments and a few requests for a few more tests. Getting this used to golf mathlib would be nice - but that can happen in a future PR.

File: Mathlib/Data/Multiset/Sort.lean (hunk 6 above)
Comment (JovanGerb) [reply Mathlib/Data/Multiset/Sort.lean]: I must have meant to tag `mem_sort`
